US05948775
3-[4-(2-Chloro-ethoxy)-phenyl]-7-hydroxy-2-(4-hydroxy-phenyl)-3H-quinazolin-4-one
To a chilled (-30° C.) solution of 1.0 g (0.00229 mol) of 3-[4-(2-chloro-ethoxy)-phenyl]-7-methoxy-2-(4-methoxy-phenyl)-3H-quinazolin-4-one in 300 mL of dry methylene chloride was added 23 mL (0.0229 mol) of boron tribromide (1M solution in dichloromethane (Aldrich Chemicals)). The reaction mixture was stirred at -30° C. for 20 minutes, under nitrogen, and then at room temperature overnight. The crude reaction mixture was added to 700 mL of aqueous sodium bicarbonate. The solution was stirred vigorously for 40 minutes at room temperature. The precipitate which formed was collected by vacuum filtration. The crude product when subjected to HPLC gave pure product. (mp 285-287° C.)

reactant | 3-[4-(2-chloro-ethoxy)-phenyl]-7-methoxy-2-(4-methoxy-phenyl)-3H-quinazolin-4-one | 0.00229 mol, 1.0 g | ClCCOC1=CC=C(C=C1)N1C(=NC2=CC(=CC=C2C1=O)OC)C1=CC=C(C=C1)OC | C24H21ClN2O4
reactant | boron tribromide | 0.0229 mol, 1M, 23 mL | B(Br)(Br)Br | BBr3
reactant | sodium bicarbonate | 700 mL | C([O-])(O)=O.[Na+]
solvent | methylene chloride | 300 mL | C(Cl)Cl | CH2Cl2
product | 3-[4-(2-Chloro-ethoxy)-phenyl]-7-hydroxy-2-(4-hydroxy-phenyl)-3H-quinazolin-4-one | ClCCOC1=CC=C(C=C1)N1C(=NC2=CC(=CC=C2C1=O)O)C1=CC=C(C=C1)O | C22H17ClN2O4
